US06335409B1
2-[4-[(E)-2-Methoxycarbonyl-vinyl]-phenoxy]-ethyl 2-methyl-acrylate
2.56 g (30 mmol) of methacrylic acid in 10 ml of THF were slowly added dropwise to a solution of 6 g (27 mmol) of methyl (E)-3-[4-[2-hydroxyethoxy]-phenyl]-acrylate, 5.85 g (28.3 mmol) of N,N′-dicyclohexylcarbodiimide (DCC) and 0.37 g (3 mmol) of 4-dimethylamino-pyridine in 80 ml of tetrahydrofuran (THF). The batch was stirred at room temperature overnight. In order to complete the reaction there were added firstly a further 1.46 g (7.1 mmol) of DCC and, after stirring for one hour, a further 0.5 g (5.9 mmol) of methacrylic acid. The batch was stirred for a further 24 hours, filtered and the filtrate was extracted 3 times each time with 200 ml of 5% acetic acid and 200 ml of water. The ether phase was dried over Na2SO4, evaporated and the residue was recrystallized from cyclohexane. Subsequently, the still slightly impure product was filtered over a thin silica gel layer (eluent: diethyl ether/hexane=1:1). This gave 8.3 g of 2-[4-[(E)-2-methoxycarbonyl-vinyl]-phenoxy]-ethyl 2-methyl-acrylate as a white powder with a melting point of 81-82° C. and an absorption maximum of λmax. (in CH2Cl2)=306.5 nm (ε=23675 l/mol cm).

reactant | methacrylic acid | 30 mmol, 2.56 g | C(C(=C)C)(=O)O | C4H6O2
reactant | methyl (E)-3-[4-[2-hydroxyethoxy]-phenyl]-acrylate | 27 mmol, 6 g | OCCOC1=CC=C(C=C1)/C=C/C(=O)OC | C12H14O4
reactant | N,N′-dicyclohexylcarbodiimide | 28.3 mmol, 5.85 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | DCC | 7.1 mmol, 1.46 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | methacrylic acid | 5.9 mmol, 0.5 g | C(C(=C)C)(=O)O | C4H6O2
solvent | THF | 10 ml | O1CCCC1 | C4H8O
catalyst | 4-dimethylamino-pyridine | 3 mmol, 0.37 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 2-[4-[(E)-2-Methoxycarbonyl-vinyl]-phenoxy]-ethyl 2-methyl-acrylate | CC(C(=O)OCCOC1=CC=C(C=C1)\C=C\C(=O)OC)=C | C16H18O5
